US08053457B2
[4-(2-Imidazol-1-yl-ethyl)-piperazin-1-yl]acetonitrile
A mixture of 1-(2-Imidazol-1-yl-ethyl)-piperazine (commercially available from CHESS GmbH) (1.0 g, 5.44 mmol), bromoacetonitrile (740 mg, 6.0 mmol) and K2CO3 (1.65 g, 12.0 mmol) in CH3CN (15 mL) is stirred at RT. After completion the product is isolated by filtration with Celite and washed with CH3CN and dried under reduced pressure to give the title compound as oil; ES-MS: M+H=220.2: CtRet=1.70.

reactant | 1-(2-Imidazol-1-yl-ethyl)-piperazine | N1(C=NC=C1)CCN1CCNCC1 | C9H16N4
reactant | bromoacetonitrile | 6.0 mmol, 740 mg | BrCC#N | C2H2BrN
reactant | K2CO3 | 12.0 mmol, 1.65 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | [4-(2-Imidazol-1-yl-ethyl)-piperazin-1-yl]acetonitrile | N1(C=NC=C1)CCN1CCN(CC1)CC#N | C11H17N5
